US08629157B2
Synthesis of (2S,4R)-4-hydroxy-1-(5-trifluoromethyl-pyridin-2-yl)-pyrrolidine-2-carboxylic acid cyclohexylmethyl-amide
A mixture of (2S,4R)-4-hydroxy-pyrrolidine-2-carboxylic acid cyclohexylmethyl-amide; hydrochloride (75 mg, 0.285 mmol), dichlorobis(tri-o-tolylphosphine) palladium (II) (11 mg, 0.014 mmol), copper iodide (2.7 mg, 0.014 mmol), potassium carbonate (78.8 mg, 0.57 mmol), tetraethylammonium bromide (10.2 mg, 0.048 mmol) and 2-bromo-5-trifluoromethylpyridine (64.4 mg, 0.285 mmol) is evacuated and filled with Argon three cycles. Triethylamine (0.16 mL, 1.14 mmol), N,N-dimethylformamide (1 mL) and water (0.1 mL) are added and the reaction mixture is heated to 100° C. under Argon atmosphere for 22 h. The reaction is diluted with ethyl acetate and concentrated. The residue is purified by flash chromatography on silica eluting with methanol/dichloromethane which provides the title compound, m/z 372 [M+H+].

reactant | (2S,4R)-4-hydroxy-pyrrolidine-2-carboxylic acid cyclohexylmethyl-amide | C1(CCCCC1)CNC(=O)[C@H]1NC[C@@H](C1)O | C12H22N2O2
reactant | hydrochloride | 0.285 mmol, 75 mg | Cl | ClH
reactant | potassium carbonate | 0.57 mmol, 78.8 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-5-trifluoromethylpyridine | 0.285 mmol, 64.4 mg | BrC1=NC=C(C=C1)C(F)(F)F | C6H3BrF3N
reactant | Triethylamine | 1.14 mmol, 0.16 mL | C(C)N(CC)CC | C6H15N
catalyst | tetraethylammonium bromide | 0.048 mmol, 10.2 mg | [Br-].C(C)[N+](CC)(CC)CC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper iodide | 0.014 mmol, 2.7 mg | [Cu](I)I
solvent | water | 0.1 mL | O | H2O
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | (2S,4R)-4-hydroxy-1-(5-trifluoromethyl-pyridin-2-yl)-pyrrolidine-2-carboxylic acid cyclohexylmethyl-amide | C1(CCCCC1)CNC(=O)[C@H]1N(C[C@@H](C1)O)C1=NC=C(C=C1)C(F)(F)F | C18H24F3N3O2
